US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (48 mg, 0.185 mmol), 2,5-difluorobenzylamine (0.026 mL, 0.222 mmol), Pd2(dba)3 (6 mg, 0.0066 mmol), rac-BINAP (21 mg, 0.021 mmol) and NaOtBu (45 mg, 0.468 mmol) in DMA (3 mL) was heated in a microwave at 90° C. for 5 minutes. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Column chromatography (Hex/EtOAc) afforded 4-chloro-6-(2,5-difluoro-benzylamino)-2H-phthalazin-1-one (3 mg) as an off white solid, 1H (400 MHz, CDCl3) δ: 4.46 (s, 2H), 6.90 (m, 2H), 7.00 (m, 3H), 8.10 (d, 1H), 10.09 (s, 1H) ppm; m/z (M+1) 321.98.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.185 mmol, 48 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2,5-difluorobenzylamine | 0.222 mmol, 0.026 mL | FC1=C(CN)C=C(C=C1)F | C7H7F2N
reactant | rac-BINAP | 0.021 mmol, 21 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.468 mmol, 45 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0066 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2,5-difluoro-benzylamino)-2H-phthalazin-1-one | 3 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC(=C1)F)F)=O | C15H10ClF2N3O
